US04983606
A mixture of 2-(2-chloroethyl)-6,7-dimethoxy-1(2H)-phthalazinone (2.68 g; 0.01 mole) obtained as described in Example 2, N-phenyl piperazin (1.5 ml), triethyl amine (2.78 ml) and potassium iodide (0.16 g; 0,001 mole) in acetonitrile (50 ml), is refluxed for 12 hours. The solvent is evaporated under reduced pressure and the residue is dissolved in dilute HCl, washed with methylene chloride and after alkalinization with NaHCO3, the mixture is extracted with methylene chloride, dried on sodium sulphate, filtered and evaporated. The residue is dissolved in acetone, made acid with HCl in ethyl ether and the product which separates is filtered and recrystallized from 95% ethanol to give 2-[2-(4-phenylpiperazin-1-yl)-ethyl]-6,7-dimethoxy-1(2H)-phthalazinone dihydrochloride (m.p. 222°-226° C.).

reactant | 2-(2-chloroethyl)-6,7-dimethoxy-1(2H)-phthalazinone | 0.01 mole, 2.68 g | ClCCN1C(C2=CC(=C(C=C2C=N1)OC)OC)=O | C12H13ClN2O3
reactant | N-phenyl piperazin | 1.5 ml | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethyl amine | 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 0,001 mole, 0.16 g | [I-].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-[2-(4-phenylpiperazin-1-yl)-ethyl]-6,7-dimethoxy-1(2H)-phthalazinone dihydrochloride | Cl.Cl.C1(=CC=CC=C1)N1CCN(CC1)CCN1C(C2=CC(=C(C=C2C=N1)OC)OC)=O | InChI=1S/C22H26N4O3.2ClH/c1-28-20-14-17-16-23-26(22(27)19(17)15-21(20)29-2)13-10-24-8-11-25(12-9-24)18-6-4-3-5-7-18;;/h3-7,14-16H,8-13H2,1-2H3;2*1H
